US09078888B2
Synthesis of 4-bromo-6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one (14q)
6-Methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one (0.50 g, 1.78 mmol) was placed in a dry 250 mL single-necked round-bottomed flask fitted with a stirring bar and septa. Acetonitrile (10 mL) was added via a syringe under argon atmosphere at room temperature. N-Bromosuccinimide or NBS (0.33 g, 1.87 mmol) was added portionwise under argon atmosphere at room temperature. The reaction mixture was allowed to stir at room temperature for 2 hours. 20 mL of saturated sodium bicarbonate solution was then added. The mixture was extracted with ethyl acetate (3×10 mL). Organic layers were separated, dried over anhydrous magnesium sulfate and concentrated under vacuum. The residue was purified by flash column chromatography (silica gel, hexanes/EtOAc=2/3 v/v) to give a white solid product, 0.55 g, 85.9% yield. MS: 360.4 [M+H]+. 1H NMR (DMSO-d6, 300 MHz): δ 8.14 (d, 1H, J=8.7 Hz), 7.39-7.34 (m, 3H), 7.19 (d, 1H, J=2.4 Hz), 7.13-7.03 (m, 3H), 6.62 (dd, 1H, J=7.5 Hz), 3.89 (s, 3H), 3.81 (s, 3H).

reactant | 6-Methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one | 1.78 mmol, 0.50 g | COC=1C=C2C=CN(C(C2=CC1)=O)C1=CC=C(C=C1)OC | C17H15NO3
reactant | N-Bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | 1.87 mmol, 0.33 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | Acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-bromo-6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one | 85.9% yield | BrC1=CN(C(C2=CC=C(C=C12)OC)=O)C1=CC=C(C=C1)OC | C17H14BrNO3
